US08071624B2
(3S)-1-[(3-Chloro-2-methylphenyl)sulfonyl]-N-[trans-4-(hydroxymethyl)cyclohexyl]piperidine-3-carboxamide
A mixture of (3S)-N-[trans-4-(hydroxymethyl)cyclohexyl]piperidine-3-carboxamide hydrochloride (170 mg, 0.61 mmol), 3-chloro-2-methylbenzenesulfonyl chloride (138 mg, 0.61 mmol), and triethylamine (0.21 mL, 1.54 mmol) in acetonitrile (3 mL) was stirred at r.t. for 2 hours. After removal of solvent, the residue was loaded on flash column with methylene chloride and eluted with ethyl acetate-hexane. 110 mg final product was obtained. (Yield: 41%). LCMS: m/z 429.0 (M+H)+; 879.2 (2M+Na)+.

reactant | (3S)-N-[trans-4-(hydroxymethyl)cyclohexyl]piperidine-3-carboxamide hydrochloride | 0.61 mmol, 170 mg | Cl.OC[C@@H]1CC[C@H](CC1)NC(=O)[C@@H]1CNCCC1
reactant | 3-chloro-2-methylbenzenesulfonyl chloride | 0.61 mmol, 138 mg | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
reactant | triethylamine | 1.54 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | (3S)-1-[(3-Chloro-2-methylphenyl)sulfonyl]-N-[trans-4-(hydroxymethyl)cyclohexyl]piperidine-3-carboxamide | 110 mg, Yield: 41% | ClC=1C(=C(C=CC1)S(=O)(=O)N1C[C@H](CCC1)C(=O)N[C@@H]1CC[C@H](CC1)CO)C | C20H29ClN2O4S
